US06248756B1
Step A: Preparation of Ethyl N-tert-butoxycarbonylpiperidine-4-carboxylate
To a cold (0° C.) solution of ethyl isonipecotate (39.5 g, 0.251 mol) and triethylamine (38.5 mL, 0.276 mol) in dichloromethane (350 mL), a solution of di-tert-butyl dicarbonate (55.9 g, 0.256 mol) in dichloromethane (50 mL) was added over a period of 30 min. The reacting mixture was stirred at room temp. overnight. The product mixture was washed with aqueous potassium hydrogen sulfate (3 times), and brine (to pH 7). The organic extract was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum to provide the title compound as clear, colorless, viscous oil.

reactant | ethyl isonipecotate | 0.251 mol, 39.5 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | triethylamine | 0.276 mol, 38.5 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.256 mol, 55.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Ethyl N-tert-butoxycarbonylpiperidine-4-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)OCC | C13H23NO4
